US05792769
d) N-methyl-N-[2-[4-(tert-butoxycarbonylamino)butyloxy]-4-methylphenyl]benzenesulfonamide
To a solution of 176 mg (0.405 mmol) of N- [2- [4-(tert-butoxycarbonylamino)butyloxy]-4-methylphenyl]benzenesulfonamide in 1.5 mL of anhydrous DMF was added 78.4 mg (0.567 mmol) of powdered anhydrous potassium carbonate and 28 mL (0.446 mmol) of iodomethane. After stirring for 18 h, the mixture was partitioned between 20 mL of ethyl acetate and 20 mL of water. The organic layer was washed with water (2×15 mL), brine (15 mL), dried (Na2SO4) and concentrated to give 180 mg (99%) of the title compound as a colorless syrup. 1 H-NMR (300 MHz, CDCl3) δ 7.70 (m, 2H), 7.56 (m, 1H), 7.46 (m, 2H), 7.14 (d, 1H, J=2.2 Hz), 7.05 (dd, 1H, J=8.4, 2.2 Hz), 6.68 (d, 1H, J=8.4), 4.53 (br s, 1H), 3.61 (t, 2H, J=6.0 Hz), 3.19 (s, 3H), 3.06 (q, 2H, J=6.3 Hz), 2.28 (s, 3H), 1.46 (s, 9H), 1.30-1.41 (m, 4H). Mass spectrum (MALDI-TOF, gentisic acid matrix) calcd. for C23H32 N2O5S: 349.2 (M-BOC+2H). Found: 349.8.

reactant | N- [2- [4-(tert-butoxycarbonylamino)butyloxy]-4-methylphenyl]benzenesulfonamide | 0.405 mmol, 176 mg | C(C)(C)(C)OC(=O)NCCCCOC1=C(C=CC(=C1)C)NS(=O)(=O)C1=CC=CC=C1 | C22H30N2O5S
reactant | potassium carbonate | 0.567 mmol, 78.4 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.446 mmol, 28 mL | IC | CH3I
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | N-methyl-N-[2-[4-(tert-butoxycarbonylamino)butyloxy]-4-methylphenyl]benzenesulfonamide | 180 mg, 99% | CN(S(=O)(=O)C1=CC=CC=C1)C1=C(C=C(C=C1)C)OCCCCNC(=O)OC(C)(C)C | C23H32N2O5S
